* C:\Users\jakob\Desktop\P7---Bsc\SIM\OpenShort.asc
R1 N002 N001 1
R2 N002 N004 10
R4 N013 N002 100k
V1 N003 0 AC 1
C6 N014 0 440p
R7 NC_01 N012 0.01
C8 N015 NC_02 96p
R8 N012 0 100k
R9 N012 N015 20k20
C7 N012 0 119.46p
R10 N002 N016 1Meg
R12 N002 N010 10k
C11 N010 N003 0.9p
R21 N003 N006 0.001
C1 N008 N003 0.9p
C2 N016 N003 0.9p
C3 N003 N003 0.9p
C4 N004 N003 0.9p
C9 N001 N003 0.9p
V2 0 N018 AC 0.5 0
C10 N018 0 192p
R6 N018 0 13Meg
R22 N002 N014 0.001
R14 0 N005 1
R15 0 N007 10
R16 0 N009 100
R17 0 N011 1k
R18 0 N006 10k
C5 N006 N006 0.9p
C12 N011 N006 0.9p
C13 N009 N006 0.9p
C14 N007 N006 0.9p
C15 N005 N006 0.9p
R19 0 N017 100k
C16 N017 N006 0.9p
R20 0 N019 1Meg
C17 N019 N006 0.9p
C19 N013 N003 0.9p
R5 N008 N002 1k
R3 N003 N002 100
.ac dec 1000 1 10E6
.backanno
.end
