* C:\Users\jakob\Desktop\P7---Bsc\SIM\OpenShort.asc
R1 N003 N002 1
R2 N003 N005 10
R3 N003 N006 100
R4 N004 N003 100k
V1 N004 0 AC 0.5
C6 N003 0 96p
R7 N004 N009 100k
C8 N010 NC_01 96p
R8 N009 0 26Meg7
R9 N009 N010 20k20
C7 N009 0 96p
R10 N003 N011 1Meg
R11 N003 N007 1k
R12 N003 N008 10k
C11 N008 N004 0.9p
R5 NC_02 N012 100k
R13 N003 0 26Meg
R14 0 NC_03 1
C5 0 N001 0.9p
R15 0 NC_04 10
C12 0 N001 0.9p
R16 0 NC_05 100
C13 0 N001 0.9p
R17 N001 0 100k
C14 NC_06 N001 36p
R18 0 NC_07 1Meg
C15 0 N001 0.9p
R19 0 NC_08 1k
C16 0 N001 0.9p
R20 0 NC_09 10k
C17 0 N001 0.9p
R21 N004 N001 0.001
C1 N007 N004 0.9p
C2 N011 N004 0.9p
C3 N006 N004 0.9p
C4 N005 N004 0.9p
C9 N002 N004 0.9p
V2 0 N012 AC 0.5 0
.ac dec 1000 1 10E6
.backanno
.end
